US05583227
A 83 ml portion of ethanol was added to a mixture of 4.14 g of trimethylpyruvic acid synthesized in accordance with the method of Jaeger et al. (J. Am. Chem. Soc., pp.717-732, 1979) and 3.02 g of o-phenylenediamine. The thus prepared mixture was refluxed for 3 hours in an atmosphere of nitrogen. By concentrating the resulting reaction solution, 3.15 g of 2-t-butyl-3, 4-dihydro-3-oxoquinoxaline was obtained.

reactant | trimethylpyruvic acid | 4.14 g | CC(C(C(=O)O)=O)(C)C | C6H10O3
reactant | o-phenylenediamine | 3.02 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethanol | C(C)O | C2H6O
product | 2-t-butyl-3, 4-dihydro-3-oxoquinoxaline | 3.15 g | C(C)(C)(C)C1=NC2=CC=CC=C2NC1=O | C12H14N2O
